US04760163
6.0 g of ethyl 2-chloro-5-ureidobenzoate and 6.4 g of ethyl 3-ethoxyacrylate are heated at reflux temperature in 100 ml of 1,2-dimethoxyethane and subsequently heated at this temperature with 12 ml of 2N hydrochloric acid for 5 minutes. The reaction mixture is evaporated to dryness under reduced pressure and the residue is purified by chromatography on 300 g of silica gel using ethyl acetate/n-hexane (1:3) as the eluent. There is obtained ethyl 2-chloro-5-{3-[2-(ethoxycarbonyl)vinyl]ureido}-benzoate, m.p. 116°-117° C.

reactant | ethyl 2-chloro-5-ureidobenzoate | 6.0 g | ClC1=C(C(=O)OCC)C=C(C=C1)NC(=O)N | C10H11ClN2O3
reactant | ethyl 3-ethoxyacrylate | 6.4 g | C(C)OC=CC(=O)OCC | C7H12O3
reactant | hydrochloric acid | 2N, 12 ml | Cl | ClH
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | ethyl 2-chloro-5-{3-[2-(ethoxycarbonyl)vinyl]ureido}-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)NC(=O)NC=CC(=O)OCC | C15H17ClN2O5
